US07183418B2
2,5-Bis(4-hexylthiophen-2-yl)-3,4-dimethylthieno[2,3-b]thiophene
To a solution of 2,5-dibromo-3,4-dimethylthieno[2,3-b]thiophene (3.02 g, 9.28 mmol) and sodium 4-hexylthiophene boronate (5.14 g, 20.4 mmol) in degassed DME (200 ml) was added tetrakis(triphenyl-phosphine)palladium(0) (0.5 g, 5 mol %). The solution was heated to reflux and a saturated solution of sodium hyodrogen carbonate (4.2 g, 49 mmol) was added slowly. The reaction was refluxed for 16 h, cooled and diluted with diethyl ether. The layers were separated and the organics washed with 5% HCl, brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified by column chromatography over silica (eluent: petrol) to afford the product after recrystallisation from petroi (1.03 g, 22%). :M/Z 500 (M+). Found C, 66.9.1, H, 6.9, S, 25.3. Calc. for C28H36S4 C, 67.2; H 7.2, S, 25.6. NMR gave the expected signals.

reactant | 2,5-dibromo-3,4-dimethylthieno[2,3-b]thiophene | 9.28 mmol, 3.02 g | BrC1=C(C2=C(SC(=C2C)Br)S1)C | C8H6Br2S2
reactant | sodium 4-hexylthiophene boronate | 20.4 mmol, 5.14 g | B([O-])[O-].C(CCCCC)C=1C=CSC1.[Na+].[Na+]
reactant | sodium | 49 mmol, 4.2 g | [Na] | Na
solvent | DME | 200 ml | COCCOC | C4H10O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,5-Bis(4-hexylthiophen-2-yl)-3,4-dimethylthieno[2,3-b]thiophene | C(CCCCC)C=1C=C(SC1)C1=C(C2=C(SC(=C2C)C=2SC=C(C2)CCCCCC)S1)C | C28H36S4
